US05948807
The intermediate 3-(3,4-dichlorophenyl)-1-indanone was prepared using a procedure similar to that described in Example 1a except replacing the 3,3-diphenylpropionic acid used therein with 3-(3,4-dichlorophenyl)-3-phenylpropionic acid.

reactant | 3,3-diphenylpropionic acid | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | 3-(3,4-dichlorophenyl)-3-phenylpropionic acid | ClC=1C=C(C=CC1Cl)C(CC(=O)O)C1=CC=CC=C1 | C15H12Cl2O2
product | 3-(3,4-dichlorophenyl)-1-indanone | ClC=1C=C(C=CC1Cl)C1CC(C2=CC=CC=C12)=O | C15H10Cl2O
